US09278953B2
To a suspension of 3-bromo-6-chloro-2-methoxypyridine (99.9 g, 449 mmol), [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (2.76 g, 3.38 mmol), and NaOtBu (105 g, 1090 mmol) in dioxane (805 mL) was added tert-butyl cyanoacetate (64.8 mL, 454 mmol) under nitrogen. The reaction mixture was heated for 235 min while maintaining the internal reaction temperature at 75° C. under nitrogen. After being cooled to 20° C., to the reaction mixture was added Mel (55.9 mL, 898 mmol) in one portion, and the resulting mixture was stirred overnight at r.t. Celite® (24 g) was added to the reaction mixture, and the resulting mixture was filtered through a 370 g silica plug. The plug was eluted with EtOAc/heptanes (1/3, 2.0 L), and the combined filtrate was concentrated. A solution of the crude residue (133.9 g) in DMSO (330 mL) and water (67 mL) was heated at 130° C. for 15.8 h. The reaction mixture was filtered through a plug of Celite®, and the filter cake was rinsed with MTBE and water. The filtrate was filtered again through a plug of Celite® and the filter cake was washed with MTBE and water. The filtrate was partitioned between MTBE (total volume=2.0 L), water (total volume=1.0 L) and brine (100 mL). The layers were separated and the organic layer was washed with water (1.0 L) and brine (750 mL), dried over Na2SO4, and concentrated to afford the crude 2-(6-Chloro-2-methoxypyridin-3-yl)propanenitrile (87.6 g, 99%) as a dark brown oil, which was used for the next step without any further purification. 1H NMR (600 MHz, CDCl3) δ 1.58 (d, 3H), 4.01 (s, 3H), 4.11 (q, 1H), 6.97 (d, 1H), 7.66 (d, 1H). MS (ES+)(M+H) 197.

reactant | 3-bromo-6-chloro-2-methoxypyridine | 449 mmol, 99.9 g | BrC=1C(=NC(=CC1)Cl)OC | C6H5BrClNO
reactant | NaOtBu | 1090 mmol, 105 g | CC(C)(C)[O-].[Na+]
reactant | tert-butyl cyanoacetate | 454 mmol, 64.8 mL | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
solvent | dioxane | 805 mL | O1CCOCC1 | C4H8O2
catalyst | dichloromethane | 3.38 mmol, 2.76 g | ClCCl | CH2Cl2
product | 2-(6-Chloro-2-methoxypyridin-3-yl)propanenitrile | 87.6 g, 99% | ClC1=CC=C(C(=N1)OC)C(C#N)C | C9H9ClN2O
